US06900209B2
Step 5: 6-[5-(2-(Azetidin-1-yl)ethyl)-1-methyl-1H-[1,2,3]triazol-4-ylmethoxy]-3-(5-methyl-isoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazine
The reaction was carried out according to Example 1 step 4 using [5-(2-(azetidin-1-yl)ethyl)-1-methyl-1H-[1,2,3]triazol-4-yl]methanol (103 mg, 0.53 mmol) and 6-chloro-3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazine (150 mg, 0.53 mmol). The crude residue was purified by column chromatography on silica using 2% MeOH/CH2Cl2 containing 1% NH3 to yield, after recrystallisation from CH2Cl2/iso-hexanes, the desired phthalazine (104 mg, 44%). 1H NMR (360 MHz, CDCl3) δ 8.68 (1H, d, J=7.9 Hz), 8.19 (1H, d, J=7.9 Hz), 7.95 (1H, t, J=7.9 Hz), 7.78 (1H, t, J=7.9 Hz), 6.95 (1H, s), 5.75 (2H, s), 4.07 (3H, s), 3.11 (4H, t, J=6.9 Hz), 2.84 (2H, t, J=7.1 Hz), 2.65-2.50 (5H, m), 1.99 (2H, quintet, J=6.9 Hz). m/z (ES+) 446 (M+H+).

reactant | [5-(2-(azetidin-1-yl)ethyl)-1-methyl-1H-[1,2,3]triazol-4-yl]methanol | 0.53 mmol, 103 mg | N1(CCC1)CCC1=C(N=NN1C)CO | C9H16N4O
reactant | 6-chloro-3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazine | 0.53 mmol, 150 mg | ClC1=NN2C(C3=CC=CC=C13)=NN=C2C2=NOC(=C2)C | C13H8ClN5O
product | 6-[5-(2-(Azetidin-1-yl)ethyl)-1-methyl-1H-[1,2,3]triazol-4-ylmethoxy]-3-(5-methyl-isoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazine | N1(CCC1)CCC1=C(N=NN1C)COC1=NN2C(C3=CC=CC=C13)=NN=C2C2=NOC(=C2)C | C22H23N9O2
